US05191109
A mixture of 1,6-dicarbomethoxy-3-hexyne [II-1] (5 g), a Lindlar catalyst (5% Pd-CaCO3 -PbO) (50 mg), quinoline (25 mg) and methanol (15 ml) is charged in an atmospheric hydrogenation apparatus and subjected to reduction at room temperature under atmospheric pressure. After completion of the reaction, the catalyst is removed by filtration and the filtrate is concentrated to give 1,6-dicarbomethoxy-cis-3-hexene [II-2] (4.70 g, yield; 93.0%), b.p. 92°-95° C./0.3 mmHg.

reactant | 1,6-dicarbomethoxy-3-hexyne | 5 g | C(=O)(OC)CCC#CCCC(=O)OC | C10H14O4
reactant | quinoline | 25 mg | N1=CC=CC2=CC=CC=C12 | C9H7N
catalyst | Lindlar catalyst | 50 mg | [Pd].CC(=O)[O-].CC(=O)[O-].[Pb+2]
solvent | methanol | 15 ml | CO | CH4O
product | 1,6-dicarbomethoxy-cis-3-hexene | 4.70 g, yield; 93.0% | C(=O)(OC)CC\C=C/CCC(=O)OC | C10H16O4
